US07732446B1
As described in Example 1, 94 mg of [1-(tert-butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid was coupled with 4-benzyl-piperidine to give 132 mg of {-4-[2-(4-benzyl-piperidin-1-yl)-2-oxo-ethyl]-6,7-dimethoxy-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester. MS: APCI (M+H) calc'd for C31H39N3O5+H 534.7; found 534.1.

reactant | [1-(tert-butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid | 94 mg | C(C)(C)(C)OC(=O)NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(=O)O | C19H24N2O6
reactant | 4-benzyl-piperidine | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
product | {-4-[2-(4-benzyl-piperidin-1-yl)-2-oxo-ethyl]-6,7-dimethoxy-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester | 132 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(=O)N1CCC(CC1)CC1=CC=CC=C1)=O | C31H39N3O5
